Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Seizure
 
Major Surgical or Invasive Procedure:
Intubation
 
History of Present Illness:
Patient is a ___ yo RHW with hx of traumatic SDH back in ___
but did not undergo any surgical intervention transferred from
___ after ~45 minutes of generalized convulsion. 


Patient fell back in ___ while carrying laundry basket - 
thought
to have tripped over something and found to have L SDH.  She was
admitted here from ___ ~ ___ under ___ service but did not
have surgical intervention.  She was discharged to home with
Dilantin then she was found to have some word-finding difficulty
on ___ hence was admitted to ___ from ___.  She was
initially sent to rehab and she has been home afterwards and per
sister, she has been getting stronger day by day.  She was
actually able to take a lengthy walk with sister who held her
hand yesterday and was in her USOH this morning.  

Then around 1pm, patient was found in the bathroom calling for
her sister.  Per sister, patient was shaking her head and arms
with L hand clenched but was able to talk to her sister.  
Patient
was also quite diaphoretic per sister.  EMS was called and
patient was able to answer their questions but upon arrival to
___, she was reportedly having generalized
convulsion.  The ambulance that took her was not equipped to 
give
her any meds.  At ___, she was given 30mg IV
Valium then 4mg of IV Ativan and intubated after a bolus of
Propofol.  Her convulsion supposedly lasted ~45 minutes.  She
then was transferred here for further evaluation.  Also, she was
febrile up to 101 at ___ per records.  There is no hx of
seizures per sister but it appears that her Dilantin dose was
increased from ___ to ___ at ___.

ROS completely negative per sister including fever/chills, 
change
in appetite, N/V/D, or sick contact.

Given the fever of 101 and status, patient was empirically
started on broad ABX with plan for LP but repeat head CT shows
acute but small SDH (R frontal and occipital) hence LP deferred
per ED.  ___ was also consulted who did not feel that
intervention was warranted at this point.
 
Past Medical History:
1. hx of traumatic SDH back in ___. Hypothyroidism
3. Osteoporosis
4. s/p mastectomy
 
Social History:
___
Family History:
No FH of seizures
 
Physical Exam:
Patient sedated on propofol and had received 20mg of IV
Valium and 4mg of IV Ativan prior to transfer.
T 99.8 (rectal) BP 158/68 HR 60 RR 14 O2Sat 100% on CMV
Gen: Lying in bed, intubated and sedated.
CV: RRR, ___ systolic murmur auscultable on LUSB.
Lung: Clear anteriorly. 
Abd: +BS, soft, nondistended.
Ext: No edema

Neurologic examination: 
Mental status: Intubated and sedated.
CN: Pupils small but symm and reactive (2.5 -> 2mm). No OCR but
bilateral corneal's present.  No gag.  Face appears symmetric.
Motor: Purposeful withdrawal to noxious stim in both ___ but
nothing on UEs.  No spontaneous movement.
___: Appears intact to noxious stim in ___: 2+ and symm throughout and toes appear upgoing
bilaterally.

Neurological examination at time of discharge:

MS:  Alert, oriented to place, time and person.  She was 
attentive: MOYB, was awake. There was no aphasia, no paraphasic 
errors.  No dysarthria.  She repeated, registered ___ but recall 
was ___.  She was able to follow simple commands, but 
perserveration was noted with multiple step commands and she 
required multiple redirection.  No right left confusion.  Naming 
of low and high frequency objects was intact.

CN: PERRL 2.5->2mm, VFF to threat, EOMI, lateral gaze nystagmus 
x2bts b/l, facial sensation and symmetry were present, hearing 
impaired to finger rub (presbycusis hx), papate midline, tongue 
midline, shoulder shrug intact.

Motor: Normal tone, trace asterixis.  She was full strength in 
UEs with exception of L delt/tri/FE which were 4+.  She was 3+ 
at biceps and triceps b/l.  Position sense was intact.  No 
tremor. In ___, IPs were 4+ on R and 4 on L, H 4+ on L, 
otherwise strength was full.  No clonus, DTRs were 3+ b/l and 1+ 
at achilles.  Toe was down on R, equivocal on L.  

Sensory: intact to PP and LT throughout.  Proprioception 
impaired at great toes, vibration impaired by 5 seconds b/l in 
___.

Gait: able to stand up from chair on own w/ use of hands.  Gait 
was wide-based, patient nearly fell to the R when walking w/ 
examiner.
 
Pertinent Results:
Admission Labs

___ 05:10PM URINE  
MUCOUS-MOD
___ BACTERIA-FEW YEAST-NONE ___ TRANS ___
BLOOD-SM NITRITE-NEG PROTEIN-NEG GLUCOSE-NEG KETONE-NEG 
BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 LEUK-NEG
COLOR-Yellow APPEAR-Clear SP ___

___ 05:10PM   
PLT COUNT-257
___ PTT-26.4 ___
NEUTS-76.2* LYMPHS-15.7* MONOS-5.8 EOS-1.8 BASOS-0.5
WBC-7.4 RBC-3.47* HGB-10.5* HCT-32.8* MCV-95 MCH-30.3 MCHC-32.0 
RDW-14.6
GLUCOSE-139* UREA N-15 CREAT-0.7 SODIUM-133 POTASSIUM-3.8 
CHLORIDE-100 TOTAL CO2-24 ANION GAP-13
LACTATE-1.5

Cardiac Biomarkers
___ 05:10PM   cTropnT-0.12* CK-MB-6 CK(CPK)-313*
___ 10:35PM   cTropnT-0.05* CK-MB-6  CK(CPK)-459*

CT HEAD W/O CONTRASTStudy Date of ___ 6:07 ___
MPRESSION:
1. New right cerebral convexity subdural hematoma, without 
midline shift.
2. Resolution of left frontotemporal subdural hematoma.

CT C-SPINE W/O CONTRASTStudy Date of ___ 8:49 ___
IMPRESSION:
1. No cervical spine fracture, subluxation, or interval change.
2. Multilevel degenerative disease causes moderate to severe 
central canal
stenosis and thecal effacement predisposing the patient to 
spinal cord injury
with minor trauma. In the appropriate clinical situation (for 
example
myelopathy), consider MR for further characterization.
3. Rotation of C1 on C2 for which rotary subluxation cannot be 
excluded and
clinical correlation is necessary.

Thyroid function tests:

___ 05:00AM BLOOD TSH-23*
___ 05:00AM BLOOD Free T4-0.64*
 
Brief Hospital Course:
Ms. ___ is an ___ year old right handed woman with a history 
of a traumatic left subdural hematoma on ___ who presented with 
suspected status epilepticus while on Dilantin.

# Neuro/Seizures/Subdural Hematoma:  The patient was admitted 
intubated and sedated in the setting of a possible seizure and 
transferred to ___.   On arrival to ICU, CT of the head 
demonstrated resolution of her prior SHD but a new, small right 
sided SDH.  Since her apparent seizure events occurred while on 
dilantin, the patient was loaded with 500mg fosphenytoin and her 
daily dose of dilantin was increased to ___.  With this 
treatment, her seizures resolved and she was successfully 
extubated.  Her dilantin level returned as 13.8.  She markedly 
improved and was transferred to a neuromedicine floor on HD2.  
Her MS examination was remarkable for being alert, oriented to 
place, time and person.  She was attentive, had no neglect. Her 
naming was intact.  Her registration was intact, recall ___.  

She was continued on dilantin at above dosing.  Dilantin level 
at time of discharge was 17.7.  Although she remained seizure 
free, she had signficant difficulties with balance and gait 
(likely due to peripheral neuropathy and cerebellar 
dysfunction).  Because of this, her age and prior falls and gait 
instability, the plan is to wean her off dilantin and 
crostitrate with Keppra. She was started on 250mg BID of Keppra 
which is to be increased by 250mg in each dose every five days 
to maximum dose of 1g bid.  At dose of 750mg BID, her dilantin 
is to be tapered at by 100mg TID and then discontinued once 
dosing of Keppra reaches 1g BID. She will require neurology 
follow up for this.

Given significant clinical improvement, she was discharged home 
with Neurosurtery and Neurology follow up.   

# Cervical Spine Evlauation:   Because of her history of 
traumatic SDH, a CT of the C-spine was conducted.  No fracture 
was seen and the patient was cleared by neurosurgery.

# Cardiovascular/? NSTEMI: The patient had no documented history 
of coronary artery disease but was noted to have an elevated 
troponin on admission.  Admission EKG demonstrated NSR w/ Left 
atrial abnormality, PAC and telemetry monitoring in the ICU was 
unremarkable.   Repeat EKG was notable for no change.  She did 
have troponin elevations but her CKMB was wnl.   

# Hypothyroidism.  TSH was elevated and her T4 was low.  She had 
sx of paresthesias and numbness in her extremities. There were 
no other signs of hypothyroidism.  It is known that phenytoin 
can decrese circulating levels of T4, however, given her 
symptoms, levothyroxine was increased to 100mcg daily.  Her PCP 
office was contacted regarding this and requirement for further 
work up of peripheral neuropathy (we will send B12, Folate, RPR, 
UPEP/SPEP, LFTs, A1C, Lyme antibody).   

# Hyperkalemia.  K was noted to be 5.1 on day of discharge. Pt. 
was asymptomatic.  
 
Medications on Admission:
1. Levothyroxine 75mcg daily
2. Dilantin ___
3. Oscal
4. Fosamax
5. Glucosamine
6. Fish oil
7. ASA
 
Discharge Medications:
1. Acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q6H (every 
6 hours) as needed for T>100.4 or pain.  
2. Phenytoin Sodium Extended 100 mg Capsule Sig: One (1) Capsule 
PO BREAKFAST (Breakfast).  
3. Phenytoin Sodium Extended 100 mg Capsule Sig: Two (2) Capsule 
PO DINNER (Dinner).  
4. Phenytoin Sodium Extended 100 mg Capsule Sig: Two (2) Capsule 
PO NOON (At Noon).  
5. Levetiracetam 250 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day): x 4 days, then increased by 250mg each dose every 
five days until final dose of 1g BID.  
6. Calcium Carbonate 500 mg (1,250 mg) Tablet Sig: One (1) 
Tablet PO BID (2 times a day).  
7. Cholecalciferol (Vitamin D3) 400 unit Tablet Sig: 0.5 Tablet 
PO BID (2 times a day).  
8. Levothyroxine 100 mcg Tablet Sig: One (1) Tablet PO once a 
day.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary: Right subdural hematoma, Status epilepticus
Secondary: Peripheral neuropathy, Subdural hematoma

 
Discharge Condition:
Seizure free

 
Discharge Instructions:
You were admitted to ___ from another hospital for treatment 
of a prolonged seizure.  It was found that your seizure was due 
to a new subdural hematoma (bleed) on your right side.  This was 
felt to due to a possible fall you experienced.  Fortunately, 
the hematoma on your left side has actually improved.

Because of unresponsiveness to dilantin initially, and ongoing 
seizures, you required sedation and temporary intubation.  With 
this 
her seizures were controlled.  Dilantin dosing was increased and 
you were started on Keppra.

Because of you balance difficulties, you will require 
rehabilitation and will require outpatient evaluation for 
peripheral neuropathy.

The following changes were made to you medications:
- Dilantin doses changed to 100mg/200mg/200mg with breakfast, 
lunch and dinner
- Started on Keppra 250mg twice daily to be increased every five 
days.
- Increased levothyroxine to 100micrograms daily

Should your symptoms worsen, you develop confusion, headache, 
vision changes, difficulty with movements, worsening numbness in 
the legs or arms, chest pain or shortness of breath or any other 
symptom concerning to you, please call your primary care doctor 
or go to the emergency room.

 
Followup Instructions:
___